data/polar.json
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]([O:17][C:33](=[O:11])[N:29]=[CH:14][c:8]1[cH:4][cH:18][cH:28][cH:19][cH:5]1)([CH3:30])([CH3:31])[CH3:32].[cH:2]1[cH:9][c:24]([CH:6]=[C:34]2[CH:25]=[CH:15][C:22](=[N+:23]([O-:20])[O-:21])[CH:16]=[CH:26]2)[cH:10][cH:3][c:12]1[N+:27](=[O:7])[O-:13]>>[C:1]([O:17][C:33]([O-:11])=[N:29][CH:14]([CH:6]([c:24]1[cH:9][cH:2][c:12]([N+:27](=[O:7])[O-:13])[cH:3][cH:10]1)[c:34]1[cH:25][cH:15][c:22]([N+:23](=[O:20])[O-:21])[cH:16][cH:26]1)[c:8]1[cH:4][cH:18][cH:28][cH:19][cH:5]1)([CH3:30])([CH3:31])[CH3:32]", "epd": [["LP-/Pi+", [20], [23, 20]], ["Pi-/Pi+", [22, 23], [15, 22]], ["Pi-/Pi+", [25, 15], [34, 25]], ["Pi-/Sigma+", [6, 34], [6, 14]], ["Pi-/Pi+", [14, 29], [29, 33]], ["Pi-/LP+", [33, 11], [11]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[O:1]=[S:24](=[O:2])([N:22]([F:19])[S:23](=[O:3])(=[O:4])[c:31]1[cH:7][cH:25][cH:13][cH:28][cH:10]1)[c:32]1[cH:8][cH:26][cH:14][cH:27][cH:9]1.[cH:5]1[cH:15][cH:11][c:20]2[c:6]([cH:29]1)[CH:30]([Zn-:18]([Cl:16])[Cl:17])[CH:21]=[CH:12]2>>[Cl:16][Zn:18][Cl:17].[O:1]=[S:24](=[O:2])([N-:22][S:23](=[O:3])(=[O:4])[c:31]1[cH:7][cH:25][cH:13][cH:28][cH:10]1)[c:32]1[cH:8][cH:26][cH:14][cH:27][cH:9]1.[cH:5]1[cH:15][cH:11][c:20]2[c:6]([cH:29]1)[CH:30]([F:19])[CH:21]=[CH:12]2", "epd": [["Sigma-/Sigma+", [30, 18], [30, 19]], ["Sigma-/LP+", [19, 22], [22]]]}
{"reaction_name": "Nazarov reagent conjugate addition", "rsmi": "[C:3]([CH3:7])([CH:10]=[CH2:4])=[O:12].[O:1]([CH3:5])[C:13](=[O:8])[CH-:11][C:14]([O:2][CH3:6])=[O:9]>>[O:1]([CH3:5])[C:13](=[O:8])[CH:11]([CH2:4][CH-:10][C:3]([CH3:7])=[O:12])[C:14]([O:2][CH3:6])=[O:9]", "epd": [["LP-/Sigma+", [11], [4, 11]], ["Pi-/LP+", [4, 10], [10]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][CH:12]([CH3:2])[N+:19]1=[N:21][N:18]([CH:3]([CH3:22])[CH3:23])[C:24](=[CH2:17])[C-:7]1[C:11]([CH3:28])([CH3:29])[CH3:30].[O:4]=[N+:26]([O-:10])[c:16]1[cH:5][cH:8][c:13]([CH:20]=[CH:14][N+:15]([O-:25])=[O:27])[cH:9][cH:6]1>>[CH3:1][CH:12]([CH3:2])[n+:19]1[c:7]([C:11]([CH3:28])([CH3:29])[CH3:30])[c:24]([CH2:17][CH:20]([c:13]2[cH:8][cH:5][c:16]([N+:26](=[O:4])[O-:10])[cH:6][cH:9]2)[CH:14]=[N+:15]([O-:25])[O-:27])[n:18]([CH:3]([CH3:22])[CH3:23])[n:21]1", "epd": [["LP-/Pi+", [7], [24, 7]], ["Pi-/Sigma+", [17, 24], [17, 20]], ["Pi-/Pi+", [20, 14], [14, 15]], ["Pi-/LP+", [15, 27], [27]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[cH:2]1[cH:12][cH:8][c:20]2[c:5]([cH:25]1)[CH:27]([Zn-:18]([Cl:15])[Cl:16])[CH:21]=[CH:10]2.[n:1]1[n:3][c:24]2[n:7]([cH:11][c:23]([N+:6](=[O:4])[O-:19])[cH:17][c:13]2[N+:14](=[O:9])[O-:26])[n:22]1>>[Cl:15][Zn:18][Cl:16].[n:1]1[n:3][c:24]2[n:7]([n:22]1)[CH:11]([CH:27]1[c:5]3[c:20]([cH:8][cH:12][cH:2][cH:25]3)[CH:10]=[CH:21]1)[C:23](=[N+:6]([O-:4])[O-:19])[CH:17]=[C:13]2[N+:14](=[O:9])[O-:26]", "epd": [["Sigma-/Sigma+", [27, 18], [27, 11]], ["Pi-/Pi+", [11, 23], [23, 6]], ["Pi-/LP+", [6, 4], [4]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[cH:1]1[cH:2][cH:20][cH:29][cH+:18][cH:28][cH:19]1.[cH:3]1[cH:5][c:27]([B-:30]2([c:11]3[s:16][c:10]([CH3:21])[cH:12][cH:22]3)[O:8][c:31]3[cH:24][cH:26][cH:25][cH:23][c:32]3[O:9]2)[cH:6][cH:4][c:7]1[C:17]([F:13])([F:14])[F:15]>>[CH:1]1=[CH:2][CH:20]=[CH:29][CH:18]([c:11]2[s:16][c:10]([CH3:21])[cH:12][cH:22]2)[CH:28]=[CH:19]1.[cH:3]1[cH:5][c:27](-[b-:30]2[o+:8][c:31]3[cH:24][cH:26][cH:25][cH:23][c:32]3[o:9]2)[cH:6][cH:4][c:7]1[C:17]([F:13])([F:14])[F:15]", "epd": [["LP-/Pi+", [8], [30, 8]], ["Sigma-/Sigma+", [11, 30], [11, 18]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:1]1(=[CH2:12])[N:18]([CH3:7])[c:17]2[cH:10][cH:13][cH:14][cH:11][c:16]2[N:19]1[CH3:8].[O:2]=[N+:25]([O-:9])[c:22]1[cH:3][cH:5][c:15]([CH:23]=[CH:20][N+:21]([O-:24])=[O:26])[cH:6][cH:4]1>>[c:1]1([CH2:12][CH:23]([c:15]2[cH:5][cH:3][c:22]([N+:25](=[O:2])[O-:9])[cH:4][cH:6]2)[CH:20]=[N+:21]([O-:24])[O-:26])[n+:18]([CH3:7])[c:17]2[cH:10][cH:13][cH:14][cH:11][c:16]2[n:19]1[CH3:8]", "epd": [["LP-/Pi+", [18], [1, 18]], ["Pi-/Sigma+", [12, 1], [12, 23]], ["Pi-/Pi+", [23, 20], [20, 21]], ["Pi-/LP+", [21, 26], [26]]]}
{"reaction_name": "Passerini reaction", "rsmi": "[CH3:2][N+:5]#[C-:6].[CH3:7][C:8]([H:9])=[O:12].[H:1][O:4][C:11]([CH3:3])=[O:10]>>[H:1][N:5]([CH3:2])[C:6]([C:8]([O:4][C:11]([CH3:3])=[O:10])([CH3:7])[H:9])=[O:12]", "epd": [["LP-/Sigma+", [6], [6, 8]], ["Sigma-/LP+", [8, 12], [12]], ["LP-/Sigma+", [12], [6, 12]], ["Pi-/LP+", [5, 6], [5]], ["LP-/Sigma+", [5], [1, 5]], ["Sigma-/LP+", [1, 4], [4]], ["LP-/Sigma+", [4], [4, 8]], ["Pi-/LP+", [8, 12], [12]], ["LP-/Pi+", [12], [6, 12]], ["Pi-/LP+", [5, 6], [5]]]}
